### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPowerSeries/NoZeroDivisors): prove order_mul

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Prove multiplicativity of order of multivariate power series

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/End.lean [hunk 1]
```diff
@@ -661,6 +661,16 @@ theorem one_def : (1 : MulAut M) = MulEquiv.refl _ :=
...
+@[simp]
+theorem inv_symm (e : MulAut M) : e⁻¹.symm = e := rfl
+
+@[simp]
+theorem symm_inv (e : MulAut M) : (e.symm)⁻¹ = e := rfl
+
+@[simp]
+theorem inv_apply (e : MulAut M) (m : M) : e⁻¹ m = e.symm m := by
+  rw [inv_def]
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Group/End.lean:673]:
```suggestion
```

File: Mathlib/Algebra/Group/End.lean [hunk 2]
```diff
@@ -669,11 +669,9 @@ theorem mul_apply (e₁ e₂ : MulAut M) (m : M) : (e₁ * e₂) m = e₁ (e₂
 theorem one_apply (m : M) : (1 : MulAut M) m = m :=
   rfl
 
-@[simp]
 theorem apply_inv_self (e : MulAut M) (m : M) : e (e⁻¹ m) = m :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Group/End.lean:672]:
```suggestion
@[simp]
theorem apply_inv_self (e : MulAut M) (m : M) : e (e⁻¹ m) = m :=
```

File: Mathlib/Algebra/Group/End.lean [hunk 3]
```diff
@@ -669,11 +669,9 @@ theorem mul_apply (e₁ e₂ : MulAut M) (m : M) : (e₁ * e₂) m = e₁ (e₂
...
   MulEquiv.apply_symm_apply _ _
 
-@[simp]
 theorem inv_apply_self (e : MulAut M) (m : M) : e⁻¹ (e m) = m :=
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/Group/End.lean:675]:
```suggestion
@[simp]
theorem inv_apply_self (e : MulAut M) (m : M) : e⁻¹ (e m) = m :=
```

File: Mathlib/GroupTheory/GroupAction/ConjAct.lean [hunk 4]
```diff
@@ -248,7 +248,6 @@ theorem _root_.MulAut.conjNormal_symm_apply {H : Subgroup G} [H.Normal] (g : G)
   rw [inv_inv]
   rfl
 
-@[simp]
 theorem _root_.MulAut.conjNormal_inv_apply {H : Subgroup G} [H.Normal] (g : G) (h : H) :
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/ConjAct.lean:251]:
```suggestion
@[simp]
theorem _root_.MulAut.conjNormal_inv_apply {H : Subgroup G} [H.Normal] (g : G) (h : H) :
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 5]
```diff
@@ -84,15 +90,52 @@ lemma X_mem_nonzeroDivisors {i : σ} :
...
   eq_zero_or_eq_zero_of_mul_eq_zero {φ ψ} h := by
     letI : LinearOrder σ := LinearOrder.swap σ WellOrderingRel.isWellOrder.linearOrder
     letI : WellFoundedGT σ := by
       change IsWellFounded σ fun x y ↦ WellOrderingRel x y
       exact IsWellOrder.toIsWellFounded
     simpa only [← lexOrder_eq_top_iff_eq_zero, lexOrder_mul, WithTop.add_eq_top] using h
 
+theorem weightedOrder_mul (w : σ → ℕ) (f g : MvPowerSeries σ R) :
+    (f * g).weightedOrder w = f.weightedOrder w + g.weightedOrder w := by
+  classical
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:105]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean [hunk 6]
```diff
@@ -84,15 +90,52 @@ lemma X_mem_nonzeroDivisors {i : σ} :
...
+        simpa only [q, ENat.coe_toNat_eq_self, ← lt_top_iff_ne_top]
+      have : f.weightedHomogeneousComponent w p * g.weightedHomogeneousComponent w q ≠ 0 := by
+        simp only [ne_eq, mul_eq_zero]
+        intro H
+        rcases H with  H | H <;>
+        · exact weightedHomogeneousComponent_of_weightedOrder
+            (by simp [p, q, ENat.coe_toNat_eq_self, ← lt_top_iff_ne_top]
+                rw [← ne_eq, ne_zero_iff_weightedOrder_finite w]
+                apply ENat.coe_toNat (LT.lt.ne_top (by simpa))
+                ) H
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/NoZeroDivisors.lean:123]:
```suggestion
        · refine weightedHomogeneousComponent_of_weightedOrder ?_ H
          simp only [ENat.coe_toNat_eq_self, ne_eq, weightedOrder_eq_top_iff, p, q]
          rw [← ne_eq, ne_zero_iff_weightedOrder_finite w]
          exact ENat.coe_toNat (ne_top_of_lt (by simpa))
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
